US08071600B2
Ethyldiisopropylamine (3.01 ml, 17.1 mmol) and methoxymethylchloride (1.5 ml, 15.7 mmol) were added to a dichloromethane solution (30 ml) of 5-bromo-2-hydroxy-3-methoxybenzaldehyde (3.3 g, 14.3 mmol) under ice cooling, and the mixture was stirred at room temperature for 2 hours. The reaction solution was washed with water, dried over magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=3:1→11:9). The purified product was concentrated to dryness under reduced pressure to obtain 5-bromo-3-methoxy-2-methoxymethoxybenzaldehyde (4.2 g) as light yellow solid.

reactant | Ethyldiisopropylamine | 17.1 mmol, 3.01 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methoxymethylchloride | 15.7 mmol, 1.5 ml | COCCl | C2H5ClO
reactant | 5-bromo-2-hydroxy-3-methoxybenzaldehyde | 14.3 mmol, 3.3 g | BrC=1C=C(C(=C(C=O)C1)O)OC | C8H7BrO3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 5-bromo-3-methoxy-2-methoxymethoxybenzaldehyde | 4.2 g | BrC=1C=C(C(=C(C=O)C1)OCOC)OC | C10H11BrO4
